US04328367
Production of N-benzyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide
In acetone (50 ml) was dissolved N-benzyl-3,4,5,6-tetrahydroisophthalimide (2.4 g), followed by addition of 2-fluoro-4-chloroaniline (1.5 g). The mixture was stirred at 40°-50° C. for 2 hours, after which time the precipitate was recovered by filtration and washed with acetone. Yield 3.0 g.; m.p. 121°-123° C.

reactant | N-benzyl-3,4,5,6-tetrahydroisophthalimide | 2.4 g | C(C1=CC=CC=C1)N1C(C2=CC(C1=O)CCC2)=O | C15H15NO2
reactant | 2-fluoro-4-chloroaniline | 1.5 g | FC1=C(N)C=CC(=C1)Cl | C6H5ClFN
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | N-benzyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | C(C1=CC=CC=C1)NC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C21H20ClFN2O2
